US06825354B2
Ethyl{[4-(2-butynyloxy)phenyl]sulfanyl}(4-methoxyphenyl)acetate was prepared according to the general method as outlined in example 1 (step 1), starting from ethyl [(4-hydroxyphenyl)sulfanyl](4-methoxyphenyl)acetate (15.82 g, 49.7 mmol) and 4-bromo-2-butyne (4.79 ml, 54.7 mmol); 17.66 g yellow oil. Yield 96%; MS(EI): 370.1 (M+H)+

reactant | ethyl [(4-hydroxyphenyl)sulfanyl](4-methoxyphenyl)acetate | 49.7 mmol, 15.82 g | OC1=CC=C(C=C1)SC(C(=O)OCC)C1=CC=C(C=C1)OC | C17H18O4S
reactant | 4-bromo-2-butyne | 54.7 mmol, 4.79 ml | BrCC#CC | C4H5Br
product | Ethyl{[4-(2-butynyloxy)phenyl]sulfanyl}(4-methoxyphenyl)acetate | Yield 96% | C(C)OC(C(C1=CC=C(C=C1)OC)SC1=CC=C(C=C1)OCC#CC)=O | C21H22O4S
